US06610694B1
Production of N-[6-[3-[4-(Diphenylmethoxy)piperidino]propylamino][1,2,4]triazolo[4,3-b]pyridazine-3-carbonyl]glycine
1.29 g of N-[6-(3-[4-(diphenylmethoxy)piperidino]propylamino)[1,2,4]triazolo[4,3-b]pyridazine-3-carbonyl]glycine ethyl ester was dissolved in 10 ml of ethanol; 4.5 ml of a 1 N aqueous solution of sodium hydroxide was added, followed by stirring at room temperature for 30 minutes. The ethanol was distilled off under reduced pressure; the reaction mixture was adjusted to pH 4.5 using 1 N hydrochloric acid. The precipitated crystal was collected by filtration, washed with water and acetone, and dried, to yield 831 mg of the title compound.

reactant | N-[6-(3-[4-(diphenylmethoxy)piperidino]propylamino)[1,2,4]triazolo[4,3-b]pyridazine-3-carbonyl]glycine ethyl ester | 1.29 g | C(C)OC(CNC(=O)C1=NN=C2N1N=C(C=C2)NCCCN2CCC(CC2)OC(C2=CC=CC=C2)C2=CC=CC=C2)=O | C31H37N7O4
reactant | sodium hydroxide | [OH-].[Na+]
solvent | ethanol | 10 ml | C(C)O | C2H6O
product | N-[6-[3-[4-(Diphenylmethoxy)piperidino]propylamino][1,2,4]triazolo[4,3-b]pyridazine-3-carbonyl]glycine | 831 mg | C1(=CC=CC=C1)C(OC1CCN(CC1)CCCNC=1C=CC=2N(N1)C(=NN2)C(=O)NCC(=O)O)C2=CC=CC=C2 | C29H33N7O4
